US08633182B2
Step 1: 3-(4-Bromo-3,5-dimethyl-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester
4-Bromo-3,5-dimethylphenol (3.7 g, 18.16 mmol), 3-hydroxymethylazetidine-1-carboxylic acid tert-butyl ester (commercially available, EP1889836 A1, 3.40 g, 18.16 mmol), di-tert-butylazodicarboxylate (4.6 g, 19.97 mmol) and triphenylphosphine (5.24 g, 19.97 mmol) are suspended in dichloromethane (100 mL) and stirred for 2 hours at room temperature. The solvent is removed under vacuum and the residue suspended in diethyl ether, cooled and the precipitate is filtered off. The solvent is removed under vacuum to give the title compound

reactant | 4-Bromo-3,5-dimethylphenol | 18.16 mmol, 3.7 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | 3-hydroxymethylazetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)CO | C9H17NO3
reactant | di-tert-butylazodicarboxylate | 19.97 mmol, 4.6 g | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 19.97 mmol, 5.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-(4-Bromo-3,5-dimethyl-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)COC1=CC(=C(C(=C1)C)Br)C | C17H24BrNO3
